US05062884
Dimethyl 3-nitrobenzylidenemalonate (X=H, Y and Z=COOCH3)
75.5 g (500 millimoles) of 3-nitrobenzaldehyde and 73 g (550 millimoles) of dimethyl malonate were stirred for 4 hours at 60° C., similarly to Example 9. After the addition of 5 ml of glacial acetic acid, the mixture was worked up in a conventional manner. The product of melting point 78°-80° C. was obtained in 96% yield.

reactant | 3-nitrobenzaldehyde | 500 millimoles, 75.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | dimethyl malonate | 550 millimoles, 73 g | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | Dimethyl 3-nitrobenzylidenemalonate | 96% yield | [N+](=O)([O-])C=1C=C(C=C(C(=O)OC)C(=O)OC)C=CC1 | C12H11NO6
